US05955464
After repetition of the previous steps, thiophosgene (0.5 ml) was added dropwise to a stirred solution of 6-amino4-(3-chloro-4-fluoroanilino)-7-methoxyquinazoline (1.65 g) in 2N aqueous hydrochloric acid (45 ml). The mixture was stirred at ambient temperature for 16 hours. The precipitate was isolated and dried to give 4-(3-chloro-4-fluoroanilino)-6-isothiocyanato-7-methoxyquinazoline which was used without further purification.

reactant | thiophosgene | 0.5 ml | C(=S)(Cl)Cl | CCl2S
reactant | 6-amino4-(3-chloro-4-fluoroanilino)-7-methoxyquinazoline | 1.65 g | NC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)F)Cl | C15H12ClFN4O
solvent | hydrochloric acid | 2N, 45 ml | Cl | ClH
product | 4-(3-chloro-4-fluoroanilino)-6-isothiocyanato-7-methoxyquinazoline | ClC=1C=C(NC2=NC=NC3=CC(=C(C=C23)N=C=S)OC)C=CC1F | C16H10ClFN4OS
